US05385912
Sodium borohydride (0.7 g) is added to 20 ml of ice-chilled MeOH. Then 1.88 g (0.012 mole) of 1-azatricyclo[3.3.1.13,7 ]decane-4-one, in 20 ml MeOH, is added dropwise over 5 minutes. A further 0.8 g NaBH4 (total 1.5 g, 0.04 mole) is added portionwise over 5 minutes. The reaction is stirred in ice one-half hour more, and then 1 hour at room temperature. The reaction is diluted with 20 ml brine, and extracted into ether. The ether is dried over MgSO4 and stripped to dryness, to give 1-azatricyclo-[3.3.1.13,7 ]decane-4-ol.

reactant | Sodium borohydride | 0.7 g | [BH4-].[Na+]
reactant | 1-azatricyclo[3.3.1.13,7 ]decane-4-one | 0.012 mole, 1.88 g | N12CC3C(C(CC(C1)C3)C2)=O | C9H13NO
reactant | NaBH4 | 0.04 mole, 0.8 g | [BH4-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
solvent | brine | 20 ml | [Cl-].[Na+].O
product | 1-azatricyclo-[3.3.1.13,7 ]decane-4-ol | N12CC3C(C(CC(C1)C3)C2)O | C9H15NO
